US07557112B2
After stirring a mixture of 4-bromo-2,5-difluorobenzoic acid and thionyl chloride for one hour at 80° C., the solution was removed and an oily substance was obtained. A mixture of the obtained oily substance, 3-aminothiophene-2-carboxamide, N,N-diisopropylethylamine and THF was stirred for two hours under ice cooling to give 3-[(4-bromo-2,5-difluorobenzoyl)amino]thiophene-2-carboxamide.

reactant | 4-bromo-2,5-difluorobenzoic acid | BrC1=CC(=C(C(=O)O)C=C1F)F | C7H3BrF2O2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | 3-aminothiophene-2-carboxamide | NC1=C(SC=C1)C(=O)N | C5H6N2OS
reactant | N,N-diisopropylethylamine | C(C)(C)N(C(C)C)CC | C8H19N
solvent | THF | C1CCOC1 | C4H8O
product | 3-[(4-bromo-2,5-difluorobenzoyl)amino]thiophene-2-carboxamide | BrC1=CC(=C(C(=O)NC2=C(SC=C2)C(=O)N)C=C1F)F | C12H7BrF2N2O2S
